US08030489B2
To a mixture of tert-butyl (1R,2S)-2-aminocyclopentanecarboxylate (0.21 g), DMF (4.0 ml), and N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithine (0.40 g) were added HATU (0.40 g) and diisopropylethylamine (0.27 g) under ice-cooling, followed by stirring at room temperature for 11 hours. To the reaction mixture were added ethyl acetate and water under ice-cooling, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer was combined and washed with a 10% aqueous citric acid solution, a saturated sodium bicarbonate solution, water, and saturated brine in this order. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:THF=5:2→2:1) to obtain tert-butyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate (0.41 g).

reactant | tert-butyl (1R,2S)-2-aminocyclopentanecarboxylate | 0.21 g | N[C@@H]1[C@@H](CCC1)C(=O)OC(C)(C)C | C10H19NO2
reactant | N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithine | 0.40 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C=1N(C2=CC=CC=C2C1)C)C(=O)O | C23H25N3O5
reactant | HATU | 0.40 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.27 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | tert-butyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate | 0.41 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C=1N(C2=CC=CC=C2C1)C)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OC(C)(C)C | C33H42N4O6
